US07223750B2
3.2. 5-(2-bromopyridin-5-yl)-1-azabicyclo[3.2.1]oct-3-ene.
9.4 g (0.033 mol) of 3-hydroxy-3-(2-bromopyridin-5-yl)-l-azabicyclo[2.2.2]octane and 35 ml of concentrated sulphuric acid are introduced into a 100 ml three-necked flask and the mixture is heated at 190° C. for 1 h 45.

reactant | 3-hydroxy-3-(2-bromopyridin-5-yl)-l-azabicyclo[2.2.2]octane | 0.033 mol, 9.4 g | OC1(CN2CCC1CC2)C=2C=CC(=NC2)Br | C12H15BrN2O
reactant | sulphuric acid | 35 ml | S(O)(O)(=O)=O | H2O4S
product | 5-(2-bromopyridin-5-yl)-1-azabicyclo[3.2.1]oct-3-ene | BrC1=NC=C(C=C1)C12C=CCN(CC1)C2 | C12H13BrN2
